US04456471
In this example 234.93 g (9.66 moles) of magnesium was placed under nitrogen and then mixed with 583 ml of ethyl ether at room temperature. A small amount of methyl iodide was then added with gentle stirring followed by the addition of another 468 ml of ethyl ether. A methyl iodide solution containing 1,371.72 g (9.66 moles) of methyl iodide in 468 ml of ethyl ether was slowly added at reflux over a 21/4-21/2-hour period. (During this period the mixture was diluted with another 583 ml of ethyl ether to reduce the reaction rate.) The mixture was cooled to room temperature and then a solution containing 433.9 g of 2-methyl-6-acetylaniline dissolved in 698 ml of ethyl ether was slowly added over 11/4-11/2 hours. During this addition the temperature of the mixture was maintained at about or below 25° C. The mixture was then stirred at room temperature for another hour. Three liters of methylene chloride was then added at about 25° C. and the reaction was then quenched by the addition of solid ammonium chloride and water. The mixture was then allowed to stand overnight (about 15 hours). The ether phase of the mixture was then separated and filtered. The water phase was mixed with three liters of methylene chloride filtered. The methylene chloride filtrate and the ethyl ether filtrate were each evaporated affording 2-methyl-6-(1-methyl-1-hydroxyethyl)-aniline.

reactant | magnesium | 9.66 moles, 234.93 g | [Mg] | Mg
reactant | methyl iodide | CI | CH3I
reactant | methyl iodide | 9.66 moles, 371.72 g | CI | CH3I
reactant | 2-methyl-6-acetylaniline | 433.9 g | CC1=C(N)C(=CC=C1)C(C)=O | C9H11NO
reactant | methylene chloride | Three liters | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 468 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 583 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 698 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 468 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 583 ml | C(C)OCC | C4H10O
product | 2-methyl-6-(1-methyl-1-hydroxyethyl)-aniline | CC1=C(N)C(=CC=C1)C(C)(O)C | C10H15NO
